US07495001B2
A] 4-Benzyloxy-naphthalene-2-carbaldehyde
4.00 g (15.1 mmol) of (4-benzyloxy-naphthalen-2-yl)-methanol [PCT Int. Appl. (1997), WO 97/09311A1] was dissolved in 160 ml of EtOAc; then, 54.1 g of manganese dioxide was added in small portions and the reaction mixture was stirred for 30 Min. at ambient temperature. The dark suspension was filtered with the aid of dicalite; then, the solvent was evaporated. Flash chromatography (SiO2, hexane/EtOAc=4:1) gave 3.20 g of the title compound as colorless oil.

reactant | (4-benzyloxy-naphthalen-2-yl)-methanol | 15.1 mmol, 4.00 g | C(C1=CC=CC=C1)OC1=CC(=CC2=CC=CC=C12)CO | C18H16O2
solvent | EtOAc | 160 ml | CCOC(=O)C | C4H8O2
catalyst | manganese dioxide | 54.1 g | [O-2].[O-2].[Mn+4]
product | 4-Benzyloxy-naphthalene-2-carbaldehyde | 3.20 g | C(C1=CC=CC=C1)OC1=CC(=CC2=CC=CC=C12)C=O | C18H14O2
